US09233979B2
(E)-2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N,N-dimethylethenamine (1.0 g, 1.692 mmol) and ethanamine HCl (0.552 g, 6.77 mmol) were stirred in a 3:1:1 solution of DCE:AcOH:EtOH (5 ml) at 100° C. for 2 hrs. Solvent was removed by vacuum and the residue was taken in DCE (15 ml) and treated with sodium triacetoxyborohydride (0.9 g, 4.23 mmol), acetic acid (0.4 g, 6.7 mmol) and stirred at room temperature for 6 hours. The eaction mixture was partitioned between DCM and aqueous sodium bicarbonate and the organics was separated, washed with brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-15% MeOH-DCM) gave 2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-ethylethanamine. MS ESI calc'd. for C29H26ClIN4 [M+H]+ 593. found 593.

reactant | (E)-2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N,N-dimethylethenamine | 1.692 mmol, 1.0 g | ClC1=CC2=C(C(=N1)/C=C/N(C)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C29H24ClIN4
reactant | ethanamine HCl | 6.77 mmol, 0.552 g | Cl.C(C)N
reactant | sodium triacetoxyborohydride | 4.23 mmol, 0.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | DCE | ClCCCl | C2H4Cl2
solvent | acetic acid | 6.7 mmol, 0.4 g | C(C)(=O)O | C2H4O2
product | 2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-ethylethanamine | ClC1=CC2=C(C(=N1)CCNCC)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C29H26ClIN4
